US05990142
7A N-[4-Oxo-2-carbamoyl-4H-1-benzopyran-8-yl]-2-benzyloxymethyl-2,3-dihydrobenzofuran-5-carboxamide
In a solution of ethyl 8-(2-benzyloxymethyl-2,3-dihydrobenzofuran-5-carboxamido)-4-oxo-4H-1-benzopyran-2-carboxylate (528 mg, 1.06 mmol) in methanol (25 ml) and anhydrous tetrahydrofuran (25 ml), ammonia gas was bubbled for 30 minutes. After evaporation to dryness, the resulting solid residue was dissolved in a tetrahydrofuran:methanol 1:1 mixture (15 ml) and added with concentrated HCl (0.5 ml). The mixture was refluxed under stirring for 1.5 h, then the solvents were evaporated off under reduced pressure. The resulting crude was suspended in water and the insoluble solid was recovered by filtration, washed repeatedly with water and dried under vacuum on phosphorous pentoxyde, thereby obtaining 527 mg of the title compound (quantitative yield).

reactant | ethyl 8-(2-benzyloxymethyl-2,3-dihydrobenzofuran-5-carboxamido)-4-oxo-4H-1-benzopyran-2-carboxylate | 1.06 mmol, 528 mg | C(C1=CC=CC=C1)OCC1OC2=C(C1)C=C(C=C2)C(=O)NC2=CC=CC=1C(C=C(OC12)C(=O)OCC)=O | C29H25NO7
reactant | ammonia | N | H3N
solvent | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-[4-Oxo-2-carbamoyl-4H-1-benzopyran-8-yl]-2-benzyloxymethyl-2,3-dihydrobenzofuran-5-carboxamide | 527 mg, quantitative yield | O=C1C=C(OC2=C1C=CC=C2NC(=O)C=2C=CC1=C(CC(O1)COCC1=CC=CC=C1)C2)C(N)=O | C27H22N2O6
